US09422311B2
To a solution of tert-butyl 4-((4-((4-((2-(chloromethyl)allyl)oxy)benzyl)amino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-yl)amino)benzoate (1.3 g) in DCM (8 mL) was added TFA (3 ml). The mixture was stirred at room temperature for 3 hours. All the solvents were removed under vacuum to give 4-(4-(4-(2-(chloromethyl)allyloxy)benzylamino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-ylamino)benzoic acid (1.1 g).

reactant | tert-butyl 4-((4-((4-((2-(chloromethyl)allyl)oxy)benzyl)amino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-yl)amino)benzoate | 1.3 g | ClCC(COC1=CC=C(CNC2=NC(=NC(=N2)OCC(F)(F)F)NC2=CC=C(C(=O)OC(C)(C)C)C=C2)C=C1)=C | C27H29ClF3N5O4
reactant | TFA | 3 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 8 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-(4-(2-(chloromethyl)allyloxy)benzylamino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-ylamino)benzoic acid | 1.1 g | ClCC(COC1=CC=C(CNC2=NC(=NC(=N2)OCC(F)(F)F)NC2=CC=C(C(=O)O)C=C2)C=C1)=C | C23H21ClF3N5O4
